US04496572
A mixture of 6-bromo-2-(1-imidazolylmethyl)-3-methylbenzo[b]-thiophene (1.01 g) and cuprous cyanide (1.80 g) in N,N-dimethylformamide (20 ml) was heated under reflux for 22 hours and then cooled and poured into water. The solid was filtered off, washed with water and then suspended in a mixture of concentrated aqueous ammonia solution (100 ml) and ethyl acetate (150 ml) and the mixture was stirred until no solid remained. The organic layer was separated, washed with water, dried (Na2SO4) and evaporated. The residue was crystallised from ethyl acetate/petrol (b.p. 60°-80°) to give 2-(1-imidazolylmethyl)-3-methylbenzo[b]thiophene-6-carbonitrile (0.58 g), m.p. 154°-155°.

reactant | 6-bromo-2-(1-imidazolylmethyl)-3-methylbenzo[b]-thiophene | 1.01 g | BrC=1C=CC2=C(SC(=C2C)CC=2NC=CN2)C1 | C13H11BrN2S
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(1-imidazolylmethyl)-3-methylbenzo[b]thiophene-6-carbonitrile | 0.58 g | N1C(=NC=C1)CC1=C(C2=C(S1)C=C(C=C2)C#N)C | C14H11N3S
